US07820659B2
2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2-oxo-ethyl)-malonic acid diethyl ester
To a solution of 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2,2-dimethoxy-ethyl)-malonic acid diethyl ester (10.0 g, 18.5 mmol) (Preparation 9) in 95 mL of acetone, add 10 ml of formic acid. After 24 h, concentrate the reaction to 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2-oxo-ethyl)-malonic acid diethyl ester as yellow oil product (6.7 g, 80%).

reactant | 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2,2-dimethoxy-ethyl)-malonic acid diethyl ester | 18.5 mmol, 10.0 g | C(C)OC(C(C(=O)OCC)(CC(OC)OC)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C25H30Cl2O7
reactant | formic acid | 10 ml | C(=O)O | CH2O2
solvent | acetone | 95 mL | CC(=O)C | C3H6O
product | 2-(4-benzyloxy-2,6-dichloro-benzyl)-2-(2-oxo-ethyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC=O)CC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl)=O | C23H24Cl2O6
